US08975261B2
Tert-butyl 5-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-3,6-dihydropyridine-1 (2H)-carboxylate (RR1)
A mixture of 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine (LL2) (50 mg, 0.13 mmol), tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (52 mg, 0.17 mmol), tripotassium phosphate (55 mg, 0.26 mmol), S-Phos (5.3 mg, 0.01 mmol), and Pd(OAc)2 (1.5 mg, 0.006 mmol) in THF (0.6 mL) and water (0.1 mL) was heated at 100° C. for 14 hours. The reaction mixture was allowed to cool to room temperature. The mixture was then diluted with EtOAc (5 mL), washed with sodium bicarbonate (1 mL) and brine (1 mL), dried over MgSO4, filtered and concentrated. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-60% acetonitrile in water with 0.1% TFA modifier) to afford the title compound. 1H NMR (500 MHz, DMSO): δ 8.79 (dd, J=4.3, 1.6 Hz, 1 H), 8.18-8.06 (m, 3 H), 7.66 (dd, J=8.4, 4.2 Hz, 1 H), 7.24 (s, 2 H), 6.26 (s, 1 H), 4.54 (m, 1 H), 4.44 (m, 1 H), 4.26 (brs, 2 H), 3.77 (s, 3 H), 3.49-3.40 (m, 2 H), 2.27 (s, 2 H), 2.24-2.19 (m, 1 H), 1.80 (s, 1 H), 1.41 (s, 9 H), 1.23-1.15 (m, 2 H), 1.08 (dt, J=8.7, 4.6 Hz, 1 H); HRMS m/z (M+H) 489.2486 found, 489.2496 required.

reactant | 3-bromo-2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-1,5-naphthyridine | 0.13 mmol, 50 mg | BrC=1C(=NC2=CC=CN=C2C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C18H16BrN3O2
reactant | tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.17 mmol, 52 mg | CC1(OB(OC1(C)C)C1=CCCN(C1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | tripotassium phosphate | 0.26 mmol, 55 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.01 mmol, 5.3 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.006 mmol, 1.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Tert-butyl 5-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-3,6-dihydropyridine-1 (2H)-carboxylate | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1=CCCN(C1)C(=O)OC(C)(C)C | C28H32N4O4
